US03935267
a. 3-Isopropyl-5-(5,6,7,8-tetrahydro-6-hydroxy-1-naphthoxy)methyl oxazolidine hydrochloride
A solution of 5.58 g. (0.02 mole) of 1,2,3,4-tetrahydro-5-[2-hydroxy-3-(isopropylamino)propoxy]-2-naphthol in 30 ml. of 99% ethanol is treated with 4 ml. of 33% formalin and heated under reflux for 12-16 hours. The solution is acidified with hydrochloric acid in ethanol and the oxazolidine hydrochloride precipitated by the addition of ether.

reactant | 1,2,3,4-tetrahydro-5-[2-hydroxy-3-(isopropylamino)propoxy]-2-naphthol | 0.02 mole | OC(COC1=C2CCC(CC2=CC=C1)O)CNC(C)C | C16H25NO3
reactant | formalin | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-Isopropyl-5-(5,6,7,8-tetrahydro-6-hydroxy-1-naphthoxy)methyl oxazolidine hydrochloride | Cl.C(C)(C)N1COC(C1)COC1=CC=CC=2CC(CCC12)O | InChI=1S/C17H25NO3.ClH/c1-12(2)18-9-15(21-11-18)10-20-17-5-3-4-13-8-14(19)6-7-16(13)17;/h3-5,12,14-15,19H,6-11H2,1-2H3;1H
